US07534797B2
3-Cyclobutyl-1-(2-phenylquinolin-7-yl)-2H-imidazo[1,5-a]pyrazin-8-ylamine
Gaseous NH3 is condensed into a cooled (dry ice/acetone) solution of 7-(8-chloro-3-cyclobutylimidazo[1,5-a]pyrazin-1-yl)-quinoline (160.0 mg, 0.389 mmol) in 2M NH3/iPrOH (4 mL) in a pressure tube until the volume is doubled, then the tube is sealed and heated to 110° C. (bath temp.) for 15 h. The solvents are evaporated, and the crude material is chromatographed on silica gel [Jones Flashmaster, 10 g/70 mL cartridge, eluting with CH2Cl2 (1-7)→1% MeOH in CH2Cl2 (8-23)→2% MEOH in CH2Cl2 (24-46)] to obtain the title compound as yellow solid; 1H NMR (CDCl3, 400 MHz) δ 2.01-2.12 (m, 1H), 2.13-2.27 (m, 1H), 2.47-2.58 (m, 2H), 2.62-2.73 (m, 2H), 3.85 (quint, J=8.0 Hz, 1H), 6.00 (brs, 2H), 7.04 (d, J=5.4 Hz, 1H), 7.15 (d, J=5.4 Hz, 1H), 7.46-7.51 (m, 1H), 7.52-7.58 (m, 2H), 7.91 (dd, J=1.6, 8.4 Hz, 1H), 7.94 (d, J=8.4 Hz, 1H), 7.97 (d, J=8.0 Hz, 1H), 8.18-8.22 (m, 2H), 8.28 (d, J=8.4 Hz, 1H), 8.42 (d, J=0.8 Hz, 1H). 13C NMR (CDCl3, 100.6 MHz, DEPT135): δ=18.89 (−), 26.92 (2C, +), 31.50 (+), 106.62 (+), 114.32 (Cquart), 119.26 (+), 126.55 (Cquart), 127.56 (3C, +), 128.06 (+), 128.15 (+), 128.83 (2C, +), 129.44 (+), 129.67 (+), 134.56 (Cquart), 136.42 (Cquart), 136.53 (+), 139.44 (Cquart), 144.40 (Cquart), 148.18 (Cquart), 151.62 (Cquart), 157.94 (Cquart). MS (ES+): m/z 392.0 (100) [MH+]. HPLC: tR=1.7 min (MicromassZQ, nonpolar—5 min).

reactant | NH3 | N | H3N
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 7-(8-chloro-3-cyclobutylimidazo[1,5-a]pyrazin-1-yl)-quinoline | 0.389 mmol, 160.0 mg | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC=NC1=C2)C2CCC2 | C19H15ClN4
reactant | NH3 iPrOH | 2M, 4 mL | N.CC(C)O
product | 3-Cyclobutyl-1-(2-phenylquinolin-7-yl)-2H-imidazo[1,5-a]pyrazin-8-ylamine | C1(CCC1)C1NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C25H23N5
